US04302464
2-Ethylamino-4-(2-ethyl-4-imidazolyl)pyridine
The procedure of Example XB was employed, starting with 2.0 g. (8 mmoles) of 2-(2-ethylamino-4-pyridyl)-2,2-diethoxyethylamine and 1.16 g. (8.3 mmoles) of ethyl propionimidate hydrochloride in 30 ml. of ethanol, to give 605 g. (33%) of the title compound as a white solid, 190°-193° C.

reactant | 2-(2-ethylamino-4-pyridyl)-2,2-diethoxyethylamine | 8 mmoles | C(C)NC1=NC=CC(=C1)C(CN)(OCC)OCC | C13H23N3O2
reactant | ethyl propionimidate hydrochloride | 8.3 mmoles | Cl.C(CC)(OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | 2-Ethylamino-4-(2-ethyl-4-imidazolyl)pyridine | 33% | C(C)NC1=NC=CC(=C1)C=1N=C(NC1)CC | C12H16N4
